US04849540
Dry chlorine gas was passed for 2 hrs into a solution of 81.0 g (0.124 mole) of tris(2-fluoro-2,2-dinitroethoxy)methyl trichloromethyl disulfide in 300 ml of dry 1,2-dichloroethane at 60°-65° C. The solution was allowed to stand at ambient temperature overnight before the volatiles were removed with a stream of nitrogen and heating at 60°-65° C. The cooled residue was stirred with 300 ml of dry hexanes to give tris(2-fluoro-2,2-dinitroethyl)chloroorthoformate as an insoluble white solid. The hexanes solution was decanted from the solid which was washed with hexanes.

reactant | chlorine | ClCl | Cl2
reactant | tris(2-fluoro-2,2-dinitroethoxy)methyl trichloromethyl disulfide | 0.124 mole, 81.0 g | ClC(Cl)(Cl)SSC(OCC(F)([N+](=O)[O-])[N+](=O)[O-])(OCC(F)([N+](=O)[O-])[N+](=O)[O-])OCC([N+](=O)[O-])([N+](=O)[O-])F | C8H6Cl3F3N6O15S2
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | tris(2-fluoro-2,2-dinitroethyl)chloroorthoformate | FC(COC(OCC([N+](=O)[O-])([N+](=O)[O-])F)(OCC([N+](=O)[O-])([N+](=O)[O-])F)Cl)([N+](=O)[O-])[N+](=O)[O-] | C7H6ClF3N6O15
